US03941803
In the manner given in Example 17, 5-chloro-2'-fluoro-2-[2-(hydroxymethyl)imidazol-1-yl]benzophenone is treated with phthalimide and triphenylphosphine and finally with diethyl azodicarboxylate to give 5-chloro-2'-fluoro-2-[2-(phthalimidomethyl)imidazol-1-yl]benzophenone.

reactant | 5-chloro-2'-fluoro-2-[2-(hydroxymethyl)imidazol-1-yl]benzophenone | ClC=1C=CC(=C(C(=O)C2=C(C=CC=C2)F)C1)N1C(=NC=C1)CO | C17H12ClFN2O2
reactant | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | 5-chloro-2'-fluoro-2-[2-(phthalimidomethyl)imidazol-1-yl]benzophenone | ClC=1C=CC(=C(C(=O)C2=C(C=CC=C2)F)C1)N1C(=NC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C25H15ClFN3O3
